US06969725B2
In analogy to the procedure described in example 1a f], (Z)-2-ethoxy-3-{4-[2-(2-fluoro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-acrylic acid ethyl ester was treated with NaOH to obtain (Z)-2-ethoxy-3-{4-[2-(2-fluoro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-acrylic acid as colorless solid.

reactant | (Z)-2-ethoxy-3-{4-[2-(2-fluoro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-acrylic acid ethyl ester | C(C)OC(/C(=C/C1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=C(C=CC=C1)F)C)/OCC)=O | C25H26FNO5
reactant | NaOH | [OH-].[Na+]
product | (Z)-2-ethoxy-3-{4-[2-(2-fluoro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-acrylic acid | C(C)O\C(\C(=O)O)=C/C1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=C(C=CC=C1)F)C | C23H22FNO5
